US06897319B2
(4-Chlorophenyl)-[5-(6-chloropyridine-3-carbonyl)-1-methyl-1H-pyrrol-3-yl]methanone (Cpd 9)
Following the protocol of Example 8 and employing (6-chloropyridin-3-yl)-(1-methyl-1H-pyrrol-2-yl)methanone hydrochloride in place of (1-methyl-1H-pyrrol-2-yl)-pyridin-3-ylmethanone hydrochloride and 4-chlorobenzoyl chloride in place of 4-fluorobenzoyl chloride, the title compound was obtained and recrystallized from MTBE: mp 150-152° C. ES-MS m/z=360 (M++H). 1H NMR (300 MHz, CDCl3) δ 4.1 (s, 3H); 7.2 (s, 1H); 7.5 (m, 3H); 7.56 (s, 1H); 7.8 (dd, 2H); 8.05 (d, 1H); 8.8 (s, 1H). Anal calc'd for C18H12C2N2O2: 60.19; H, 3.37; N, 7.8. Found: C, 59.9; H, 3.34; N, 7.71.

reactant | (6-chloropyridin-3-yl)-(1-methyl-1H-pyrrol-2-yl)methanone hydrochloride | Cl.ClC1=CC=C(C=N1)C(=O)C=1N(C=CC1)C
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | (4-Chlorophenyl)-[5-(6-chloropyridine-3-carbonyl)-1-methyl-1H-pyrrol-3-yl]methanone | ClC1=CC=C(C=C1)C(=O)C1=CN(C(=C1)C(=O)C=1C=NC(=CC1)Cl)C | C18H12Cl2N2O2
